US06410592B1
B: 4-(1-Naphthyl)butanoic acid
To a solution of 4-(1-naphthyl)butenoic acid (3.96 g) in ethyl alcohol (45 cm3) was added palladium on carbon (10%, 400 mg). The mixture was stirred under hydrogen (approx. 2 atm) for 3 h. The catalyst was then removed by filtration through a pad of Dicalite® and the solvent was removed under reduced pressure to yield the title compound (3.59 g).

reactant | 4-(1-naphthyl)butenoic acid | 3.96 g | C1(=CC=CC2=CC=CC=C12)CC=CC(=O)O | C14H12O2
solvent | ethyl alcohol | 45 cm3 | C(C)O | C2H6O
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | 4-(1-Naphthyl)butanoic acid | 3.59 g | C1(=CC=CC2=CC=CC=C12)CCCC(=O)O | C14H14O2
